US04425333
(2S)-N-[(2R,4R)-[3-(S-Acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinyl]carbonyl]methionine
The suspension of mixed anhydride in THF is prepared by using 5.3 g of (2R,4R)-3-(S-acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid, 1.5 g of N-methylmorpholine and 2.0 g of isobutyl chlorocarbonate. To the suspension the aqueous solution of 4.5 g of L-methionine and 3.0 g of N-methylmorpholine is added, and treated in the same manner as Example 1 to give 1.6 g (66%) of the titled compound.

reactant | (2R,4R)-3-(S-acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid | 5.3 g | C(C)(=O)SCCC(=O)N1[C@H](SC[C@H]1C(=O)O)C1=C(C=CC=C1)O | C15H17NO5S2
reactant | N-methylmorpholine | 1.5 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 2.0 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | L-methionine | 4.5 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | N-methylmorpholine | 3.0 g | CN1CCOCC1 | C5H11NO
solvent | THF | C1CCOC1 | C4H8O
product | (2S)-N-[(2R,4R)-[3-(S-Acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinyl]carbonyl]methionine | 1.6 g, 66% | C(C)(=O)SCCC(=O)N1[C@H](SC[C@H]1C(=O)N[C@@H](CCSC)C(=O)O)C1=C(C=CC=C1)O | C20H26N2O6S3
